US06949542B2
4-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-7,8-bis-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from 4,5-bis-trifluoromethyl-benzene-1,2-diamine [CAS-No. 30454-92-3] (244 mg, 1.0 mmol) and 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K15) (325 mg, 1.0 mmol) in toluene (10 ml) under reflux conditions for 2 h according to the general procedure M and subsequent treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (132 mg, 28%).

reactant | 4,5-bis-trifluoromethyl-benzene-1,2-diamine | 1.0 mmol, 244 mg | FC(C=1C=C(C(=CC1C(F)(F)F)N)N)(F)F | C8H6F6N2
reactant | 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 325 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O | C20H23NO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-7,8-bis-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=NC(=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C(F)(F)F)C(F)(F)F)C | C24H17F6N3O
